US05232922
1-Ethyl-4-imidazolesulfonic acid
5.6 g (29 mmol) of 1-ethyl-4-imidazolesulfonyl chloride from Example C-2 are suspended in 70 ml of water at room temperature until a clear solution is formed. After evaporating in vacuo, the residue is recrystallized from ethanol/water in order to give the title compound of melting point 278° C.

reactant | 1-ethyl-4-imidazolesulfonyl chloride | 29 mmol, 5.6 g | C(C)N1C=NC(=C1)S(=O)(=O)Cl | C5H7ClN2O2S
reactant | water | 70 ml | O | H2O
product | 1-Ethyl-4-imidazolesulfonic acid | C(C)N1C=NC(=C1)S(=O)(=O)O | C5H8N2O3S
